US07786165B2
4-({[5′-(hydroxymethyl)-2,2′,6-trimethylbiphenyl-4-yl]oxy}methyl)tetrahydro-2H-thiopyran-4-ol
To a solution of methyl 4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-carboxylate (191 mg, 0.48 mmol) in anhydrous tetrahydrofuran (3 mL) was added lithium aluminum hydride (34.2 mg, 0.72 mmol) under ice-cooling, and the mixture was stirred overnight at room temperature. Anhydrous tetrahydrofuran (10 mL) was added to the reaction solution, and the solution was ice-cooled. Sodium sulfate decahydrate (232 mg, 0.72 mmol) was added, and the mixture was stirred at room temperature for 2 hr. The precipitated insoluble material was filtered off through celite, and the filtrate was concentrated under reduced pressure to give the title compound (182 mg, yield 100%) as a colorless amorphous powder.

reactant | methyl 4′-[(4-hydroxytetrahydro-2H-thiopyran-4-yl)methoxy]-2′,6,6′-trimethylbiphenyl-3-carboxylate | 0.48 mmol, 191 mg | OC1(CCSCC1)COC1=CC(=C(C(=C1)C)C1=CC(=CC=C1C)C(=O)OC)C | C23H28O4S
reactant | lithium aluminum hydride | 0.72 mmol, 34.2 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 0.72 mmol, 232 mg | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-({[5′-(hydroxymethyl)-2,2′,6-trimethylbiphenyl-4-yl]oxy}methyl)tetrahydro-2H-thiopyran-4-ol | 182 mg, yield 100% | OCC=1C=CC(=C(C1)C1=C(C=C(C=C1C)OCC1(CCSCC1)O)C)C | C22H28O3S
